US07429609B2
5-Fluoro-2-methyl-4-nitro-phenylamine
A suspension of 3.5 g of N-(5-fluoro-2-methyl-4-nitrophenyl)-acetamide in 5N hydrochloric acid was heated under reflux for 1 hour. After allowing to cool, the solution was neutralized with potassium carbonate, and extracted with 80 mL of ethylacetate. The organic layer was dried over anhydrous magnesium sulfate, allowed to pass through a silica gel pad, and then the solvent was distilled off under reduced pressure, to afford 2.69 g of the title compound as ocher crystals.

reactant | N-(5-fluoro-2-methyl-4-nitrophenyl)-acetamide | 3.5 g | FC=1C(=CC(=C(C1)NC(C)=O)C)[N+](=O)[O-] | C9H9FN2O3
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | hydrochloric acid | 5N | Cl | ClH
product | 5-Fluoro-2-methyl-4-nitro-phenylamine | 2.69 g | FC=1C(=CC(=C(C1)N)C)[N+](=O)[O-] | C7H7FN2O2
